US06162417
5(R)-phenyl-2-pyrrolidinone (16).
To a stirred solution of ethyl 4(R)-amino-4-phenylbutyrate (515 mg, 2.48 mmol) in 20 mL of anhydrous methanol was added sodium cyanide (25 mg, 0.5 mmol) at room temperature. The reaction mixture was stirred at 55° C. for 4 h, cooled to room temperature, concentrated under reduced pressure. The residue was taken up in methylene chloride, washed with water, brine, dried over anhydrous MgSO4, concentrated to afford 391 mg of product (98% yield) as a colorless crystal, mp 103-105° C. (lit.17 102-104° C.). 1H NMR (CDCl3) δ 1.80-1.95 (m, 1H), 2.27-2.42 (m, 2H), 2.45-2.58 (m, 1H), 4.709 (t, 1H, J=7.2 Hz), 7.22-7.38 (m, 5H), 7.425 (br, 1H); 13C NMR (CDCl3) δ 30.19, 30.93, 57.91, 125.34, 127.46, 128.56, 142.43, 178.85.

reactant | ethyl 4(R)-amino-4-phenylbutyrate | 2.48 mmol, 515 mg | N[C@H](CCC(=O)OCC)C1=CC=CC=C1 | C12H17NO2
reactant | sodium cyanide | 0.5 mmol, 25 mg | [C-]#N.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 5(R)-phenyl-2-pyrrolidinone | 391 mg, 98% yield | C1(=CC=CC=C1)[C@H]1CCC(N1)=O | C10H11NO
